US07544835B2
Ethyl 3-[3-(aminomethyl)-4-methoxyphenyl]-2-isopropoxypropanoate
24.7 g of Ethyl 3-(3-[(t-butoxycarbonyl)amino]methyl-4-methoxyphenyl)-3-hydroxy-2-isopropoxypropanoate (mixture of erythro form and threo form) was dissolved in 400 ml of trifluoroacetic acid, and 96 ml of triethylsilane was added, and the mixture was stirred for 38 hours. The solvent was evaporated, and the residue was dissolved in 300 ml of 3N hydrochloric acid and 200 ml of hexane. The aqueous layer was washed with 100 ml of hexane, basified with 5N sodium hydroxide solution, and extracted with dichloromethane (200 ml×4). The organic layers were combined and dried over anhydrous magnesium sulfate, to give 13.0 g of the title compound as a pale yellow oil.

reactant | Ethyl 3-(3-[(t-butoxycarbonyl)amino]methyl-4-methoxyphenyl)-3-hydroxy-2-isopropoxypropanoate | 24.7 g | C(C)(C)(C)OC(=O)NCC=1C=C(C=CC1OC)C(C(C(=O)OCC)OC(C)C)O | C21H33NO7
reactant | triethylsilane | 96 ml | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 400 ml | FC(C(=O)O)(F)F | C2HF3O2
product | Ethyl 3-[3-(aminomethyl)-4-methoxyphenyl]-2-isopropoxypropanoate | 13.0 g | NCC=1C=C(C=CC1OC)CC(C(=O)OCC)OC(C)C | C16H25NO4
